US08134001B2
In a manner similar to the method described in Example 50a, 5-bromo-2-fluorobenzaldehyde (4.1 g, 20 mmol) (Alfa) was reacted with methyl vanillate (3.64 g, 20 mmol)(Aldrich) and K2CO3 in N,N-dimethylacetamide to give 4-(4-bromo-2-formyl-phenoxy)-3-methoxy-benzoic acid methyl ester as a white solid (Yield 3.1 g, 92%).

reactant | 5-bromo-2-fluorobenzaldehyde | 20 mmol, 4.1 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | methyl vanillate | 20 mmol, 3.64 g | C(C1=CC(OC)=C(O)C=C1)(=O)OC | C9H10O4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 4-(4-bromo-2-formyl-phenoxy)-3-methoxy-benzoic acid methyl ester | Yield 3.1 g, 92% | COC(C1=CC(=C(C=C1)OC1=C(C=C(C=C1)Br)C=O)OC)=O | C16H13BrO5
